US07411072B2
2-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-pyrazine
In a 1-dram vial, mix 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid (100 mg, 0.307 mmol), chloropyrazine (69 mg, 0.460 mmol), cesium fluoride (94 mg, 0.614 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) (1:1 complex with CH2C2, 25 mg, 0.031 mmol) in dioxane (2 mL). Heat to 85° C. for 72 h, then remove solvent under nitrogen. Take up the resulting residue in H2O (1 mL) and CH2Cl2 (1 mL) and load onto a Varian ChemElut CE1005 solid-phase extraction cartridge. Elute, collect, and concentrate 15 mL CH2Cl2 to obtain crude product. Purify by mass-guided reverse-phase HPLC to obtain 2.3 mg (2%) of the title compound. MS (ES) 361 (M+H); HPLC shows 93% purity.

reactant | 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid | 0.307 mmol, 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)B(O)O | C22H19BO2
reactant | chloropyrazine | 0.460 mmol, 69 mg | ClC1=NC=CN=C1 | C4H3ClN2
reactant | cesium fluoride | 0.614 mmol, 94 mg | [F-].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | 0.031 mmol, 25 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-pyrazine | 2.3 mg, 2% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)C3=NC=CN=C3 | C26H20N2
